US07790720B2
A solution of methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate ax60 (2 g, 6.15 mmol, 1 eq) in acetonitrile (50 ml) is treated with a solution of N-bromosuccinimide (1.8 g, 10 mmol, 1.5 eq) in acetonitrile (10 ml) and the resulting solution is stirred 2 h at room temperature and 2 h at 60° C. After cooling, the mixture is concentrated to dryness. The residue is taken up with ethyl acetate, washed with water, dried over magnesium sulfate and concentrated under reduced pressure. Purification of the residue over silicagel (eluent: dichloromethane/benzine) affords 0.6 g of methyl 2-[3-bromo-4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate i91.

reactant | methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)OC | C15H16ClNO3S
reactant | N-bromosuccinimide | 10 mmol, 1.8 g, 1.5 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-[3-bromo-4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | 0.6 g, Yield: 24% | BrC=1C=C(C=CC1OCCCCl)C=1SC(=C(N1)C)C(=O)OC | C15H15BrClNO3S
